US06255333B1
5-Chloro-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)4-(2,2-dibromoethenyl)pyrazole
To a stirred solution of triphenylphosphine (0.709 g) in dry dichloromethane (2 ml) at 0° C. under an atmosphere of dry nitrogen was added carbon tetrabromide (0.358 g) in dry dichloromethane (2 ml) followed by 5-chloro-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)4-formylpyrazole (0.2 g) in dry dichloromethane (3 ml). The mixture was allowed to warm to room temperature and stirring continued overnight. The reaction mixture was washed with water. The aqueous layer was twice extracted with dichloromethane. The combined organic layers were washed with brine, dried (Na2SO4) and evaporated. The residue was purified by column chromatography on silica get eluted with hexane dichloromethane (1:1). Combination and evaporation of suitable fractions followed by recrystallisation from hexane gave the title compound as a white solid, m.p. 119.1-119.5° C.

reactant | triphenylphosphine | 0.709 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 0.358 g | C(Br)(Br)(Br)Br | CBr4
reactant | 5-chloro-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)4-formylpyrazole | 0.2 g | ClC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)C=O | C12H3Cl3F3N3O
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 5-Chloro-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)4-(2,2-dibromoethenyl)pyrazole | ClC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)C=C(Br)Br | C13H3Br2Cl3F3N3
